US04026936
A suspension of 20 g. (0.082 mol) of 2-(3-nitro-4-aminobenzoyl)thiazole in 1 liter of tetrahydrofuran containing 5 g. of 5% palladium on carbon was reduced with hydrogen under a pressure of 3 atmospheres. The resulting mixture was filtered and concentrated in vacuo to yield 2-(3,4-diaminobenzoyl) thiazole as unstable red needles, mp. 125°-127° C. (dec.) (acetone-water).

reactant | 2-(3-nitro-4-aminobenzoyl)thiazole | 0.082 mol | [N+](=O)([O-])C=1C=C(C(=O)C=2SC=CN2)C=CC1N | C10H7N3O3S
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 1 liter, 5 g | O1CCCC1 | C4H8O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-(3,4-diaminobenzoyl) thiazole | NC=1C=C(C(=O)C=2SC=CN2)C=CC1N | C10H9N3OS
